US05175291
1,3-Dipropyl-8-(3-oxocyclopentyl)-xanthine
2.4 g (0.014 mol) of 1,4-dioxaspiro[4,4]nonan-7-carboxylic acid are dissolved in 56 ml of methylene chloride and after the addition of 2.2 g (0.014 mol) of carbonyldiimidazole stirred for 1 hour at ambient temperature. Then 3.2 g (0.014 mol) of 5,6-diamino-1,3-dipropyluracil are added and the mixture is stirred for a further 4 hours at ambient temperature. The solution is evaporated down in vacuo, the oily residue is mixed with 70 ml of water and 4.5 g of Ca(OH)2 and stirred for 1 hour at 70° C. 100 ml of 50% NaOH are added, the mixture is stirred for a further hour at 70° C. and for 16 hours at ambient temperature. Whilst being cooled with ice, the solution is adjusted to pH 6 with HCl and extracted with methylene chloride. After drying and evaporation in vacuo the combined organic phases yield a crystalline residue which is recrystallised from ethanol using activated charcoal. 0.8 g (16%) of white crystals are obtained, m.p. 147°-148° C.

reactant | 1,4-dioxaspiro[4,4]nonan-7-carboxylic acid | 0.014 mol, 2.4 g | O1CCOC12CC(CC2)C(=O)O | C8H12O4
reactant | carbonyldiimidazole | 0.014 mol, 2.2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5,6-diamino-1,3-dipropyluracil | 0.014 mol, 3.2 g | NC=1C(N(C(N(C1N)CCC)=O)CCC)=O | C10H18N4O2
solvent | methylene chloride | 56 ml | C(Cl)Cl | CH2Cl2
product | 1,3-Dipropyl-8-(3-oxocyclopentyl)-xanthine | 0.8 g, 16% | C(CC)N1C(=O)N(C=2N=C(NC2C1=O)C1CC(CC1)=O)CCC | C16H22N4O3
